simulator lang=spectre
global 0

ahdl_include "./dut/windowed_event_rate_monitor.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=420p period=1.1n width=460p rise=25p fall=25p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.3n 0.9 1.35n 0 8.5n 0 8.55n 0.9 9.4n 0.9 9.45n 0 17n 0]
Vgate (gate 0) vsource type=pwl wave=[0 0 1.8n 0 1.85n 0.9 6.5n 0.9 6.55n 0 7.8n 0 7.85n 0.9 13.2n 0.9 13.25n 0 14.2n 0 14.25n 0.9 17n 0.9]
Vevent (event_in 0) vsource type=pwl wave=[0 0 2.2n 0 2.25n 0.9 5.7n 0.9 5.75n 0 8.2n 0 8.25n 0.9 9.1n 0.9 9.15n 0 10.1n 0 10.15n 0.9 12.3n 0.9 12.35n 0 15n 0 15.05n 0.9 17n 0.9]

XDUT (clk rst event_in gate rate average) windowed_event_rate_monitor


tran tran stop=17n maxstep=10p
save clk rst event_in gate rate average time
